US05661160
Synthesis of 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-phenacyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide
Prepare by the method of example 3.3 using 2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-phenacyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate (0.6 mmol) and 4-phenyl-piperidine-4-carboxylic acid amide hydrochloride (0.72 mmol). Chromatograph on silica gel to give the title compound.

reactant | 2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-phenacyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate | 0.6 mmol | ClC=1C=C(C=CC1Cl)C1(CN(CC1)CC(=O)C1=CC(=C(C(=C1)OC)OC)OC)CCCS(=O)(=O)[O-]
reactant | 4-phenyl-piperidine-4-carboxylic acid amide hydrochloride | 0.72 mmol | Cl.C1(=CC=CC=C1)C1(CCNCC1)C(=O)N
product | 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-phenacyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide | ClC=1C=C(C=CC1Cl)C1(CN(CC1)CC(=O)C1=CC(=C(C(=C1)OC)OC)OC)CCN1CCC(CC1)(C(=O)N)C1=CC=CC=C1 | C35H41Cl2N3O5
